US07271197B2
iii) 3-({2-[4-(2-Hydroxyethyl)phenoxy]ethoxy}methyl)benzonitrile
A mixture of 3-[(2-bromoethoxy)methyl]benzonitrile (5.00 g), 2-(4-hydroxyphenyl)ethanol (3.45 g), and potassium carbonate (5.76 g) in N,N-dimethylformamide (30 ml) was heated at 60° C. for 66 h. The mixture was allowed to cool and partitioned between ethyl acetate and 2N HCl. The aqueous phase was extracted with ethyl acetate and the combined organic phase washed with 2N NaOH, brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by chromatography (SPE, eluted with gradient between cyclohexane and 80% EtOAc in cyclohexane) to give the title compound (5.05 g). LCMS RT=2.96 min.

reactant | 3-[(2-bromoethoxy)methyl]benzonitrile | 5.00 g | BrCCOCC=1C=C(C#N)C=CC1 | C10H10BrNO
reactant | 2-(4-hydroxyphenyl)ethanol | 3.45 g | OC1=CC=C(C=C1)CCO | C8H10O2
reactant | potassium carbonate | 5.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-({2-[4-(2-Hydroxyethyl)phenoxy]ethoxy}methyl)benzonitrile | 5.05 g | OCCC1=CC=C(OCCOCC=2C=C(C#N)C=CC2)C=C1 | C18H19NO3
